US05232925
4-(2-(N-(2-Benzothiazolyl)-N-benzylamino)ethoxy)benzaldehyde
The title compound was prepared from 2-(N-(2-benzothiazolyl)-N-benzylamino)ethanol (8.25 g) and 4-fluorobenzaldehyde (3.6 g) by an analogous procedure to that described in Preparation 22.

reactant | 2-(N-(2-benzothiazolyl)-N-benzylamino)ethanol | 8.25 g | S1C(=NC2=C1C=CC=C2)N(CC2=CC=CC=C2)CCO | C16H16N2OS
reactant | 4-fluorobenzaldehyde | 3.6 g | FC1=CC=C(C=O)C=C1 | C7H5FO
product | 4-(2-(N-(2-Benzothiazolyl)-N-benzylamino)ethoxy)benzaldehyde | S1C(=NC2=C1C=CC=C2)N(CC2=CC=CC=C2)CCOC2=CC=C(C=O)C=C2 | C23H20N2O2S
